US04978665
4-chloro-5-(3-n-propoxy-4-methoxybenzylamino)-6-nitro-3(2H)pyridazinone (Compound No. 22)
A mixture comprising 8.0 g of 4,5-dichloro-6-nitro-3(2H)pyridazinone, 29.75 g of 3-n-propoxy-4-methoxybenzylamine and 160 ml of ethanol, was refluxed under stirring for 15 hours. Ethanol was distilled off under reduced pressure, and water was added to the residue thereby obtained. The mixture was extracted with chloroform. The extract was washed with water and dried over sodium sulfate. Then, the solvent was distilled off to obtain an orange solid substance. This product was crystallized from a solvent mixture of methanol-water, to obtain 6.50 g of the above identified compound having a melting point of from 169° to 171° C. as orange crystals.

reactant | 4,5-dichloro-6-nitro-3(2H)pyridazinone | 8.0 g | ClC=1C(NN=C(C1Cl)[N+](=O)[O-])=O | C4HCl2N3O3
reactant | 3-n-propoxy-4-methoxybenzylamine | 29.75 g | C(CC)OC=1C=C(CN)C=CC1OC | C11H17NO2
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | 4-chloro-5-(3-n-propoxy-4-methoxybenzylamino)-6-nitro-3(2H)pyridazinone | ClC=1C(NN=C(C1NCC1=CC(=C(C=C1)OC)OCCC)[N+](=O)[O-])=O | C15H17ClN4O5
